US07897767B2
A mixture of [4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methanol (15.2 g, 56.2 mmol, U.S. Pat. No. 5,389,640 Example 9), platinum(IV) oxide (7.6 g), and trifluoroacetic acid (75 mL) was hydrogenated at 50 psi (3.5×105 Pa) of hydrogen on a Parr apparatus for 2 days. The mixture was diluted with dichloromethane and filtered through CELITE filter agent, which was rinsed afterwards with dichloromethane and methanol. The filtrate was concentrated under reduced pressure and the residue was partitioned between dichloromethane (250 mL) and 1:1 saturated aqueous sodium bicarbonate/water (250 mL). Some solid formed that was isolated by filtration. The aqueous layer was extracted with dichloromethane (2×200 mL). The solid was dissolved in methanol and the resulting solution was combined with the organic layers, concentrated under reduced pressure, and purified by chromatography using a HORIZON HPFC system (silica gel, elution with 10% 1 M NH3 in methanol/dichloromethane) to afford 4.98 g of [4-amino-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-2-yl]methanol as a grey solid.

reactant | [4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)C)CO | C15H18N4O
reactant | trifluoroacetic acid | 75 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | platinum(IV) oxide | 7.6 g | [Pt](=O)=O
product | [4-amino-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-2-yl]methanol | 4.98 g | NC1=NC=2CCCCC2C2=C1N=C(N2CC(C)C)CO | C15H22N4O
